US03987186
2-Carboxy-4-oxo-6,6-dimethyl-8-hydroxy-4H, 6H-[2]-benzopyrano[3,4-f]-[1]-benzopyran by method A
2.5 gm (0.007 mol) of 2-carboxy-4-oxo-6,6-dimethyl-8-methoxy-4H,6H-[2]-benzopyrano-[3,4-f]-[1]-benzopyran, prepared as described in Example 2, were refluxed for 4 hours in 50 ml of hydroiodic acid. Then, the reaction mixture was cooled and diluted with 200 ml of water. The precipitated yellow crystals were filtered off, washed with water, dried and recrystallized from methanol. 250 gm (10.5% of theory) of the compound named in the heading, m.p. 256°-258° C, were obtained. The ethanolamine salt, prepared in analogy with Example 1, had a melting point of 200°-202° C.

reactant | 2-carboxy-4-oxo-6,6-dimethyl-8-methoxy-4H,6H-[2]-benzopyrano-[3,4-f]-[1]-benzopyran | 0.007 mol, 2.5 gm | C(=O)(O)C=1OC2=C(C(C1)=O)C1=C(C=C2)C2=C(C(O1)(C)C)C=C(C=C2)OC | C20H16O6
reactant | ethanolamine | C(O)CN | C2H7NO
solvent | hydroiodic acid | 50 ml | I | HI
solvent | water | 200 ml | O | H2O
product | 2-Carboxy-4-oxo-6,6-dimethyl-8-hydroxy-4H, 6H-[2]-benzopyrano[3,4-f]-[1]-benzopyran | C(=O)(O)C=1OC2=C(C(C1)=O)C1=C(C=C2)C2=C(C(O1)(C)C)C=C(C=C2)O | C19H14O6
